US08134007B2
1-bromo-2(-2,2,2-trifluoroethyl)-benzene
A solution of imidazole-1-carbothioic acid O-[1-(2-bromophenyl)-2,2,2-trifluoroethyl]-ester (Preparation 56, 27.0 g, 73.8 mmol) in toluene (400 ml) was heated at reflux and treated with tri-n-butyltin hydride in three portions: 22 g (75.6 mmol) at first, an additional 10 g (34.4 mmol) after 30 min, and finally 11 g (37.8 mmol) 30 min later. After the addition, the mixture was heated at reflux for another 30 min. The reaction mixture was cooled then the product was distilled at 25 Pa, 60-100° C. to afford the title compound as a colourless oil (17.0 g, 59%).

reactant | imidazole-1-carbothioic acid O-[1-(2-bromophenyl)-2,2,2-trifluoroethyl]-ester | 73.8 mmol, 27.0 g | BrC1=C(C=CC=C1)C(C(F)(F)F)OC(=S)N1C=NC=C1 | C12H8BrF3N2OS
reactant | tri-n-butyltin hydride | C(CCC)[SnH](CCCC)CCCC
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 1-bromo-2(-2,2,2-trifluoroethyl)-benzene | 17.0 g, 59% | BrC1=C(C=CC=C1)CC(F)(F)F | C8H6BrF3
